US09120749B2
{4-[trans-4-Aminocyclohexylamino]-6-(2,5-dichloro-4-hydroxyphenyl)quinolin-3-yl}(cyclopropyl)methanone
Following general procedure A-2, tert-butyl trans-4-[3-(cyclopropanecarbonyl)-6-(2,5-dichloro-4-hydroxyphenyl)quinolin-4-ylamino]cyclohexylcarbamate (57 mg, 0.100 mmol) was reacted with TFA (2 mL) to afford the desired product (10.8 mg, 23%) as an off-white solid: 1H NMR (500 MHz, CD3OD) δ 9.23 (s, 1H), 8.27 (d, J=1.6 Hz, 1H), 7.94 (d, J=8.6 Hz, 1H), 7.87 (dd, J=8.7, 1.7 Hz, 1H), 7.48 (s, 1H), 7.12 (s, 1H), 4.27-4.14 (m, 1H), 3.27-3.18 (m, 1H), 2.95-2.82 (m, 1H), 2.34 (d, J=11.5 Hz, 2H), 2.14 (d, J=10.7 Hz, 2H), 1.72-1.59 (m, 2H), 1.59-1.48 (m, 2H), 1.26-1.16 (m, 2H), 1.16-1.07 (m, 2H); ESI MS m/z 470 [C25H25Cl2N3O2+H]+; HPLC 96.4% (AUC), tR=10.67 min.

reactant | tert-butyl trans-4-[3-(cyclopropanecarbonyl)-6-(2,5-dichloro-4-hydroxyphenyl)quinolin-4-ylamino]cyclohexylcarbamate | 0.100 mmol, 57 mg | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)C1=C(C=C(C(=C1)Cl)O)Cl | C30H33Cl2N3O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | {4-[trans-4-Aminocyclohexylamino]-6-(2,5-dichloro-4-hydroxyphenyl)quinolin-3-yl}(cyclopropyl)methanone | 10.8 mg, 23% | N[C@@H]1CC[C@H](CC1)NC1=C(C=NC2=CC=C(C=C12)C1=C(C=C(C(=C1)Cl)O)Cl)C(=O)C1CC1 | C25H25Cl2N3O2
